US06855269B2
A mixture of 5 gm 2-(2,4-dihydroxyphenyl)-4,6-bis(4-phenoxyphenyl)-1,3,5-triazine, 2.5 gm 1-iodooctane, 6.6 gm anhydrous potassium carbonate, 0.5 gm Aliquat 336 and 25 ml MIBK was heated to reflux for 3 hr. The reaction mixture was cooled to room temperature, diluted with methylene chloride, filtered through Celite. The filtrate was concentrated under reduced pressure. The residue thus obtained was passed through a silica gel column. The material thus obtained was crystallized with acetone to give 3.5 gm of pure 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(4-phenoxyphenyl)-1,3,5-triazine.

reactant | 2-(2,4-dihydroxyphenyl)-4,6-bis(4-phenoxyphenyl)-1,3,5-triazine | 5 gm | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C33H23N3O4
reactant | 1-iodooctane | 2.5 gm | ICCCCCCCC | C8H17I
reactant | potassium carbonate | 6.6 gm | C([O-])([O-])=O.[K+].[K+]
reactant | MIBK | 25 ml | CC(C)CC(=O)C | C6H12O
catalyst | Aliquat 336 | 0.5 gm | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(4-phenoxyphenyl)-1,3,5-triazine | 3.5 gm | OC1=C(C=CC(=C1)OCCCCCCCC)C1=NC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C41H39N3O4
